US06723722B1
4-(6-Chloronaphthalene-2-sulfonyl)-1-[methyl(4-piperidinyl)amino]-2-piperazinone hydrochloride
A suspension of 1-{[1-(tert-butoxycarbonyl)piperidinyl]methylamino}-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone (10.42 g) in methanol (40 ml) was combined with a 4N solution of hydrochloric acid in ethyl acetate (20 ml) and stirred at room temperature for 5 hours. The reaction mixture was combined with ethyl acetate (50 ml) and the crystals precipitated were collected by filtration, dried to obtain the title compound (9.21 g) as colorless crystals.

reactant | 1-{[1-(tert-butoxycarbonyl)piperidinyl]methylamino}-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | 10.42 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CNN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C25H33ClN4O5S
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 40 ml | CO | CH4O
product | 4-(6-Chloronaphthalene-2-sulfonyl)-1-[methyl(4-piperidinyl)amino]-2-piperazinone hydrochloride | 9.21 g | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)N(C1CCNCC1)C)=O | InChI=1S/C20H25ClN4O3S.ClH/c1-23(18-6-8-22-9-7-18)25-11-10-24(14-20(25)26)29(27,28)19-5-3-15-12-17(21)4-2-16(15)13-19;/h2-5,12-13,18,22H,6-11,14H2,1H3;1H
